US05208247
N-2-Pyridylmethylacetamide
A mixture of 5.0 g 2-(aminomethyl)pyridine, 5.02 ml acetic anhydride, 0.847 g 4-dimethylaminopyridine and 35 ml of pyridine is heated at reflux temperature for 23.5 hours. The cooled solution is poured into water and extracted with methylene chloride. The organic layer is washed with saturated sodium chloride, dried and concentrated in vacuo. The residue is purified by column chromatography (silica gel:5% methyl alcohol/ethyl acetate) to give 3.3 g of desired product as a light yellow oil.

reactant | 2-(aminomethyl)pyridine | 5.0 g | NCC1=NC=CC=C1 | C6H8N2
reactant | acetic anhydride | 5.02 ml | C(C)(=O)OC(C)=O | C4H6O3
reactant | pyridine | 35 ml | N1=CC=CC=C1 | C5H5N
catalyst | 4-dimethylaminopyridine | 0.847 g | CN(C1=CC=NC=C1)C | C7H10N2
solvent | water | O | H2O
product | N-2-Pyridylmethylacetamide | 3.3 g | N1=C(C=CC=C1)CNC(C)=O | C8H10N2O
